US07910592B2
A mixture of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(3-iodo-5-nitro-2-naphthyl)methyl]-4-methyl-1,3-oxazolidin-2-one (34.0 mg, 0.0545 mmol), (4-fluoro-5-isopropyl-2-methoxyphenyl)boronic acid (23.1 mg, 0.0109 mmol), and 1,1′-bis(di-t-butylphosphinoferrocene)palladium dichloride (3.5 mg, 0.00545 mmol) in 1N aqueous potassium carbonate (2 mL) and THF (2 mL) was heated at 85° C. in a sealed tube for 2 h. The reaction mixture was cooled to room temperature and water (10 mL) was added. The mixture was extracted with EtOAc (3×20 mL) and the combined organic extracts were dried (Na2SO4) and concentrated in vacuo to give the crude product. This was purified by flash chromatography (Si, 12×160 mm, 0-30% EtOAc in hexanes gradient) to afford (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[3-(4-fluoro-5-isopropyl-2-methoxyphenyl)-5-nitro-2-naphthyl]methyl}-4-methyl-1,3-oxazolidin-2-one. Rf=0.23 (20% EtOAc/hexanes). LCMS calc.=665.2; found=664.9 (M+1)+. 1H NMR (500 MHz, CDCl3, 1:1 mixture of atropisomers): δ 8.46 (s, 1H); 8.26 (d, J=7.5 Hz, 1H); 8.17 (t, J=9.0 Hz, 1H); 8.07 (s, 0.5H); 7.95 (s, 0.5H); 7.85 (s, 1H); 7.69 (s, 2H); 7.58 (t, J=7.9 Hz, 1H); 7.14 (d, J=8.4 Hz, 0.5H); 7.10 (d, J=8.4 Hz, 0.5H); 6.72 (d, J=12.0 Hz, 0.5H); 6.71 (d, J=12.0 Hz, 0.5H); 5.57 (d, J=8.1 Hz, 0.5H); 5.44 (d, J=8.0 Hz, 0.5H); 4.97 (d, J=15.9 Hz, 0.5H); 4.93 (d, J=15.9 Hz, 0.5H); 4.29 (d, J=15.9 Hz, 0.5H); 4.03 (d, J=15.8 Hz, 0.5H); 3.91-3.83 (m, 0.5H); 3.77 (m, 3.5H); 3.26-3.18 (m, 1H); 1.28-1.24 (m, 4.5H); 1.20 (d, J=6.9 Hz, 1.5H); 0.58 (d, J=6.5 Hz, 1.5H); 0.40 (d, J=6.6 Hz, 1.5H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(3-iodo-5-nitro-2-naphthyl)methyl]-4-methyl-1,3-oxazolidin-2-one | 0.0545 mmol, 34.0 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=CC2=CC=CC(=C2C=C1I)[N+](=O)[O-])C)(F)F | C23H15F6IN2O4
reactant | (4-fluoro-5-isopropyl-2-methoxyphenyl)boronic acid | 0.0109 mmol, 23.1 mg | FC1=CC(=C(C=C1C(C)C)B(O)O)OC | C10H14BFO3
reactant | water | 10 mL | O | H2O
solvent | potassium carbonate | 1N, 2 mL | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[3-(4-fluoro-5-isopropyl-2-methoxyphenyl)-5-nitro-2-naphthyl]methyl}-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=CC2=CC=CC(=C2C=C1C1=C(C=C(C(=C1)C(C)C)F)OC)[N+](=O)[O-])C)(F)F | C33H27F7N2O5
